US08217032B2
[6-Methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone
Alternatively, combine trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester (1.93 g, 3.60 mmol), cesium fluoride (5.0 g, 33 mmol), bis(neopentyl glycolato)diboron (1.0 g, 4.4 mmol), bis(tricyclohexylphosphine)palladium (0.50 g, 0.75 mmol) and acetonitrile (50 mL). Heat the mixture to 90° C. for 20 minutes to obtain a dark-colored solution. Add 2-bromo-1,3,5-trifluoro-benzene (5 g, 23.7 mmol) and heat at 90° C. for 2 hours. Add bis(tricyclohexylphosphine)palladium (0.50 g, 0.75 mmol) and 2-bromo-1,3,5-trifluoro-benzene (5.0 g, 23 mmol) and heat at 90° C. for 4 hours. Cool to room temperature and filter through a pad of celite and evaporate the solvent. Purify the residue over silica gel, eluting the material with methanol in dichloromethane (0 to 5%), to give 1.30 g (67%) of title compound: mass spectrum (ion spray) m/z=520.2 (M+H).

reactant | trifluoromethanesulfonic acid 6-methoxy-1-[4-(2-piperidin-1-yl-ethoxy)-benzoyl]-naphthalen-2-yl ester | 3.60 mmol, 1.93 g | COC=1C=C2C=CC(=C(C2=CC1)C(C1=CC=C(C=C1)OCCN1CCCCC1)=O)OS(=O)(=O)C(F)(F)F | C26H26F3NO6S
reactant | cesium fluoride | 33 mmol, 5.0 g | [F-].[Cs+]
reactant | bis(neopentyl glycolato)diboron | 4.4 mmol, 1.0 g | B1(OCC(CO1)(C)C)B2OCC(CO2)(C)C | C10H20B2O4
reactant | 2-bromo-1,3,5-trifluoro-benzene | 23.7 mmol, 5 g | BrC1=C(C=C(C=C1F)F)F | C6H2BrF3
reactant | 2-bromo-1,3,5-trifluoro-benzene | 23 mmol, 5.0 g | BrC1=C(C=C(C=C1F)F)F | C6H2BrF3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | [6-Methoxy-2-(2,4,6-trifluoro-phenyl)-naphthalen-1-yl]-[4-(2-piperidin-1-yl-ethoxy)-phenyl]-methanone | 1.30 g, 67% | COC=1C=C2C=CC(=C(C2=CC1)C(=O)C1=CC=C(C=C1)OCCN1CCCCC1)C1=C(C=C(C=C1F)F)F | C31H28F3NO3
